US04855303
A. 2-nitroethylcyclohexane
An oven-dried 1 liter 3-necked flask fitted with dropping funnel, thermometer and 31 g sodium nitrite. The mixture was stirred at 5° C. while 50 g 2-cyclohexylethylbromide (Aldrich) was added over 5 minutes. The cooling bath was removed and the mixture was stirred at 25° C. for 18 hours, poured into 1.5 l cold water and the mixture was repeatedly extracted (4×150 ml) with petroleum ether which was washed with water (2×10 ml) and dried over magnesium sulfate. The solvent was removed at reduced pressure using a rotary evaporator and the residue was distilled through an 8" Vigreux column giving 18.3 g (41%) of the desired product boiling at 70°-80° C. and 2 mm Hg, preceded by 8 g of lower-boiling material gave 16.4 g, 40%, bp 62°-65° C. at 0.5 mm Hg of the title product.

reactant | sodium nitrite | 31 g | N(=O)[O-].[Na+]
reactant | 2-cyclohexylethylbromide | 50 g | C1(CCCCC1)CCBr | C8H15Br
product | 2-nitroethylcyclohexane | 18.3 g, 41% | [N+](=O)([O-])CCC1CCCCC1 | C8H15NO2
